* C:\Users\Martina\Desktop\InformesTC\TP5\EJ4\simulaciones\UNIVERSAL_ETAPA2_MODIFICADO.asc
R1 N005 N018 {mc(22k,tola)}
r2a N013 N005 {mc(20k,tola)}
R3 N006 N005 {mc(2800,tola)}
r30 N014 N013 {mc(3k3,tola)}
R§3k VOUT N014 {mc(3k3,tola)}
r100 N014 N018 {mc(3k,tola)}
R7 N015 N018 {mc(3k,tola)}
r3j N015 VOUT {mc(2800,tola)}
C1 N013 N005 {mc(1n,tolb)}
C§1n N006 N015 {mc(1n,tolb)}
V1 VCC+ 0 15
V2 0 VCC- 15
R2 N001 N016 {mc(7500,tola)}
R9 N007 N001 {mc(5600,tola)}
R10 N002 N001 {mc(680,tola)}
R§fj N008 N007 {mc(560,tola)}
R12 VO2 N008 {mc(560,tola)}
R13 N008 N016 {mc(680,tola)}
R14 N009 N016 {mc(680,tola)}
R15 N009 VO2 {mc(680,tola)}
C3 N007 N001 {mc(4.7n,tolb)}
C4 N002 N009 {mc(4.7n,tolb)}
R16 N003 N017 {mc(20k,tola)}
R17 N010 N003 {mc(16.3k,tola)}
R18 N004 N003 {mc(3082,tola)}
R19 N011 N010 {mc(3k,tola)}
R20 VO1 N011 3k
R21 N011 N017 {mc(3K,tola)}
R22 N012 N017 {mc(3k,tola)}
r3b N012 VO1 {mc(3082,tola)}
C5 N010 N003 {mc(1n,tolb)}
C6 N004 N012 {mc(1n,tolb)}
V3 VIN 0 AC 1
XU1 0 N005 VCC+ VCC- N013 TL082
XU2 0 N014 VCC+ VCC- VOUT TL082
XU6 0 N009 VCC+ VCC- N002 TL082
XU7 0 N003 VCC+ VCC- N010 TL082
XU8 0 N011 VCC+ VCC- VO1 TL082
XU3 0 N015 VCC+ VCC- N006 TL082
XU4 0 N001 VCC+ VCC- N007 TL082
XU5 0 N008 VCC+ VCC- VO2 TL082
XU9 0 N012 VCC+ VCC- N004 TL082
XU10 VIN N017 VCC+ VCC- N017 TL082
XU11 VO1 N016 VCC+ VCC- N016 TL082
XU12 VO2 N018 VCC+ VCC- N018 TL082
.include C:\Users\Martina\Desktop\informesTC\TP5\EJ4\TL082\TL082.301
.ac dec 1000 10k 100k
.param tola=0
.param tolb=0
.backanno
.end
